US08283364B2
1,1-Dimethylethyl 4-[(2-amino-3-fluoro-5-methoxyphenyl)amino]-1-piperidinecarboxylate (D13a)
1,1-Dimethylethyl 4-[(2-nitro-3-fluoro-5-methoxyphenyl)amino]-piperidine-carboxylate (D12) (380 mg, 1 mmol) was dissolved in ethanol (10 ml) and Raney nickel (50% aqueous suspension, 1 ml) was added at room temperature; the mixture was heated to 40° C. and hydrazine monohydrate (0.5 ml) was added over dropwise. After 30 min more, the reaction mixture was cooled to room temperature, filtered through Celite and the solvent evaporated. The product was purified by silica gel chromatography eluting with 20 to 50% ethyl acetate in hexane to yield the title compound, 250 mg. M+−H=340.

reactant | 1,1-Dimethylethyl 4-[(2-nitro-3-fluoro-5-methoxyphenyl)amino]-piperidine-carboxylate | 1 mmol, 380 mg | [N+](=O)([O-])C1=C(C=C(C=C1F)OC)NC1CCN(CC1)C(=O)OC(C)(C)C | C17H24FN3O5
reactant | hydrazine monohydrate | 0.5 ml | O.NN
solvent | ethanol | 10 ml | C(C)O | C2H6O
catalyst | Raney nickel | 1 ml | [Ni] | Ni
product | 1,1-Dimethylethyl 4-[(2-amino-3-fluoro-5-methoxyphenyl)amino]-1-piperidinecarboxylate | NC1=C(C=C(C=C1F)OC)NC1CCN(CC1)C(=O)OC(C)(C)C | C17H26FN3O3
